US07153872B2
5-[2-Dimethoxymethyl-5-(6-methyl-pyridin-2-yl)-1H-imidazol-4-yl]-2-methyl-2H-benzotriazole (700 mg, 1.92 mmol) was dissolved in 40 ml anhydrous tetrahydrofuran. 6M hydrochloric acid solution in water (3.2 ml, 19.2 mmol) was added. The reaction was refluxed for 3 hours and then cooled to room temperature. Saturated aqueous sodium hydrogen carbonate solution was added until approximately pH 8. The organic solvent was removed by rotary evaporation. The residue was dissolved in water and then extracted three times with chloroform. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated to afford 4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazole-2-carbaldehyde (600 mg, 98% yield) as a brown solid. Step C. [4-(2-Methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazol-2-yl]-methanol

reactant | 5-[2-Dimethoxymethyl-5-(6-methyl-pyridin-2-yl)-1H-imidazol-4-yl]-2-methyl-2H-benzotriazole | 1.92 mmol, 700 mg | COC(C=1NC(=C(N1)C1=CC=2C(=NN(N2)C)C=C1)C1=NC(=CC=C1)C)OC | C19H20N6O2
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | water | 19.2 mmol, 3.2 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazole-2-carbaldehyde | 600 mg, 98% yield | CN1N=C2C(=N1)C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)C=O | C17H14N6O
